US20010000178A1
A suspension of 1-[(4-methylbenzoyl)]-2-(3-nitrobenzoyl)hydrazine (1.37 g, 4.58 mmol) in 20 ml thionyl chloride is heated to reflux for 12 hours. The solution is concentrated and the residue is taken up in chloroform (50 ml) and washed with water (50 ml) and brine (50 ml). The organic layer is dried over MgSC4 and concentrated to yield 2-(3′-nitrophenyl)-5-(p-tolyl)-1,3,4-oxadiazole as a yellow solid. (1.12 g, 87%).

reactant | 1-[(4-methylbenzoyl)]-2-(3-nitrobenzoyl)hydrazine | 4.58 mmol, 1.37 g | CC1=CC=C(C(=O)NNC(C2=CC(=CC=C2)[N+](=O)[O-])=O)C=C1 | C15H13N3O4
solvent | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-(3′-nitrophenyl)-5-(p-tolyl)-1,3,4-oxadiazole | [N+](=O)([O-])C=1C=C(C=CC1)C=1OC(=NN1)C1=CC=C(C=C1)C | C15H11N3O3
